US04452809
Trans-4-(4-chlorophenoxy)-1-phenylmethyl-3-pyrrolidinol
A mixture of 12.3 g. of 1-benzyl-3,4-epoxypyrrolidine, 18.0 g. of p-chlorophenol and 3 drops of water was heated at 120° C. under nitrogen gas for 20 hr. The mixture was cooled and dissolved in 100 ml. diethyl ether. The ethereal solution was extracted with 2×50 ml. 5% sodium hydroxide and then washed with water. After being dried with anhydrous sodium sulfate, the solvent was evaporated and the residue weighed 14.3 g. Two crystallizations from cyclohexane gave 4.7 g (29%) of analytically pure product which melted at 101°-104° C.

reactant | 1-benzyl-3,4-epoxypyrrolidine | C(C1=CC=CC=C1)N1CC2C(C1)O2 | C11H13NO
reactant | p-chlorophenol | ClC1=CC=C(C=C1)O | C6H5ClO
catalyst | water | 3 drops | O | H2O
solvent | diethyl ether | C(C)OCC | C4H10O
product | Trans-4-(4-chlorophenoxy)-1-phenylmethyl-3-pyrrolidinol | ClC1=CC=C(O[C@H]2[C@@H](CN(C2)CC2=CC=CC=C2)O)C=C1 | C17H18ClNO2
